US07528163B2
2-[3-(2,2-Dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]-N,N-diisobutylacetamide
To a solution of 28.3 mg [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid in 1 mL DMF was added 23.0 mg HOBt, 19.4 mg diisobutylamine, 38.3 mg EDC, and 45.2 mg DIEA in that order. The mixture was stirred at room temperature over night and purified by RP-HPLC using 65-100% MeCN gradient. The pure product fractions were pooled and lyophilized to give the title compound as white solid. LC-MS: 4.29 min. (m/Z=402.3, 424.3).

reactant | [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid | 28.3 mg | CC(C(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)O)(C)C | C15H18N2O4
reactant | HOBt | 23.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisobutylamine | 19.4 mg | C(C(C)C)NCC(C)C | C8H19N
reactant | DIEA | 45.2 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EDC | 38.3 mg
product | 2-[3-(2,2-Dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]-N,N-diisobutylacetamide | CC(C(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)N(CC(C)C)CC(C)C)(C)C | C23H35N3O3
